US06831106B1
b) [5-(3-Bromophenylsulphanylmethyl)-2-hydroxymethylphenyl]methanol
Dimethyl 4-(3-bromophenylsulphanylmethyl)phthalate (10 g, 26 mmol) is dissolved in 120 mL of anhydrous THF. 2.2 g of lithium borohydride (100 mmol) are then added slowly, after which the reaction medium is refluxed for 12 h. After cooling and treatment with saturated ammonium chloride solution, the reaction medium is extracted with ethyl acetate. The organic phases are combined, dried and concentrated under reduced pressure. The residue is purified by chromatography on a column of silica, to give a colourless oil (7.8 g, Y=89%).

reactant | Dimethyl 4-(3-bromophenylsulphanylmethyl)phthalate | 26 mmol, 10 g | BrC=1C=C(C=CC1)SCC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C17H15BrO4S
reactant | lithium borohydride | 100 mmol, 2.2 g | [BH4-].[Li+]
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | [5-(3-Bromophenylsulphanylmethyl)-2-hydroxymethylphenyl]methanol | BrC=1C=C(C=CC1)SCC=1C=CC(=C(C1)CO)CO | C15H15BrO2S
